US04599361
N-[3-(Ethoxycarbonyl)-2-(2-methylpropyl)propanoyl]-O-methyl-L-tyrosine N-Methylamide (4.7 g., 0.012 mol.) was suspended in methanol (25 mls.) containing potassium hydroxide solution (12 mls. of 1M). The mixture was stirred overnight and the solvent was removed by evaporation in vacuo to yield a gum. The gum was partitioned between diethyl ether (50 mls.) and sodium bicarbonate solution (50 mls.). The aqueous phase was separated, washed with ethyl ether (50 mls.) and adjusted to pH 2 by the addition of dilute hydrochloric acid. The aqueous mixture was extracted with dichloromethane (3×100 mls.) and the extracts combined and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation in vacuo to yield a gum (3.3 g.). The gum was recrystallized from a mixture of dichloromethane and hexane to yield N-[3-carboxy-2-(2-methylpropyl)propanoyl]-O-methyl-L-tyrosine N-methylamide as a white solid which was a mixture of two diastereomers. (m.p. 92°-96° C. Found: C, 61.7; H, 7.6; N, 7.5%. C19H28N2O5 0.3H2O requires C, 61.7; H, 7.8; N, 7.6%).

reactant | N-[3-(Ethoxycarbonyl)-2-(2-methylpropyl)propanoyl]-O-methyl-L-tyrosine N-Methylamide | 0.012 mol, 4.7 g | CNC([C@@H](NC(C(CC(=O)OCC)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C21H32N2O5
reactant | potassium hydroxide | 1M, 12 mls | [OH-].[K+]
solvent | methanol | 25 mls | CO | CH4O
product | N-[3-carboxy-2-(2-methylpropyl)propanoyl]-O-methyl-L-tyrosine N-methylamide | CNC([C@@H](NC(C(CC(=O)O)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C19H28N2O5
